US07091227B2
2-Amino-6-(4′-fluorophenoxy)-benzothiazole
A solution of 4-(4′-fluorophenoxy)aniline (0.305 g, 1.50 mmol) and KSCN (0.29 g, 3.00 mmol, 2.0 eq) in 3 mL acetic acid was cooled at about 5° C., and was treated dropwise with a solution of bromine (0.077 mL, 1.50 mmol, 1.0 eq) in 2 mL acetic acid. The mixture was stirred at room temperature for about 2 hours. The precipitate was filtered off and washed with Et2O. The mother liquid from the filtration was concentrated, and the residue was combined with the precipitate. The obtained solid was neutralized with saturated sodium carbonate solution, and a new precipitate was formed. It was filtered off, washed with water, and dried under vacuum to give the desired compound 0.403 g (90%). LC/MS 261.2 (M+1); LC retention time 2.44 min.

reactant | 4-(4′-fluorophenoxy)aniline | 1.50 mmol, 0.305 g | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | KSCN | 3.00 mmol, 0.29 g, 2.0 eq | C(#N)[S-].[K+]
reactant | bromine | 1.50 mmol, 0.077 mL, 1.0 eq | BrBr | Br2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-Amino-6-(4′-fluorophenoxy)-benzothiazole | 0.403 g, 90% | NC=1SC2=C(N1)C=CC(=C2)OC2=CC=C(C=C2)F | C13H9FN2OS
